data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2202,2441,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[NH:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][CH:2]1[C:3]#[C:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1>>[F:1][CH:2]1[C:3]2=[C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[C:16]([C:17](=[O:18])[NH:19][CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,15.198089589987974,-57.55221382556144
4017,4602,[CH3:10][O:11][C:12](=[O:13])[CH-:14][NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[NH:15][CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,20.47598356447269,-5.405713997440626
3487,3971,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[CH:16]1[C:17]#[N:18],water,298.15,23.03730014770434,-13.855924059858491
4993,5681,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24]([CH3:25])=[O:26])[o+:27]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]1([C:24]([CH3:25])=[O:26])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[O:27]1,water,298.15,21.120095168245005,-4.80824447186852
2145,2379,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([O+:24]=[C:25]([CH3:26])[CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([O:13][CH3:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([O:13][CH3:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:28]([CH3:29])=[O:30])[O:24][C:25]2([CH3:26])[CH3:27],water,298.15,21.4113845760801,-49.27850953988322
4755,5430,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,26.442379889918584,7.563152873261247
1996,2217,[CH3:14][NH:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]([CH3:20])[C:21]3([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[NH:28][CH3:29],water,298.15,14.869785620603883,-48.6322974093838
114,130,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][O:9][C:10](=[O:11])[N:12]=[N+:13]([CH3:14])[N-:15][C:16]#[N:17]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[N:12]([C:10]([O:9][CH3:8])=[O:11])[N:13]([CH3:14])[N:15]1[C:16]#[N:17],water,298.15,26.484967420882487,-32.169508445372294
507,554,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([CH3:17])[NH:18][CH:19]2[C:20]#[N:21],water,298.15,10.528895541244994,-38.21158876350503
1683,1858,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[CH-:26][C:27]#[N:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:20](=[O:21])[O:22][CH3:23])[N:24]([CH3:25])[CH:26]3[C:27]#[N:28],water,298.15,22.48847154734437,-41.336029560587335
2291,2540,[CH3:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[C:30]([CH3:31])=[O:32].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:16][C:15]2([C:13]([CH3:12])=[O:14])[C:30]([CH3:31])=[O:32],water,298.15,31.76129272395128,-9.383223902917436
